Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2](\[C:7]([N+:4]#[N:3])=[C:6]([O-:5])[H:9])[H:10])\[H:8],64.0011897482677
[C:1]([C:2]([C@@:3]1([C:4]([H:13])([H:14])[H:15])[C:6]([O:5][H:16])=[C:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],52.7990987705737
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[O:7])([H:8])([H:9])[H:10].[O:4]=[C:5]([C:6]([H:15])([H:16])[H:17])[H:14]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10],80.7948376939777
[C:1]([C:2]([C-:3]=[N+:5]([C:6](=[O:7])[H:18])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:13])([H:14])([H:15])[H:16]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],15.416603213205903
[C:1]([C@@:2]1([H:10])[C:3]([H:11])=[C:4]1[C:5]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9].[C:6]([H:12])([H:16])([H:17])[H:18]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],79.8737544751958
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@:6]1([H:15])[C:5](=[C:4])[O:7]1)[H:11])([H:8])([H:9])[H:10],135.864033298703
[C:1]([N:2](/[C:3](=[N:4]/[H:11])[H:10])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1](=[N+:2]([C:3]([N-:4][H:11])([H:8])[H:10])[C:5](=[O:6])[H:12])([H:7])[H:9],83.9956108130644
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]([C:3]([H:12])([H:13])[H:14])[C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15],83.8416632812918
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[H:9][H:10].[N:1](=[C:2]1[C:3]([H:8])=[C:4]=[C:5]([H:11])[O:6]1)[H:7],88.1446142390575
[N:1](=[C:2]=[C:7]([C:6](/[N:3]=[N:4]/[H:9])=[O:5])[H:10])[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],54.28947008978759
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[N:1]([C-:2]=[O+:3][C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],76.500874043179
[C:1]([O:2][C:3](/[C:4](=[N:5]\[C:7]([H:14])([H:15])[H:16])[O:6][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],107.1916487396098
[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([H:7])[H:10])([C:3](=[O:4])[C:5](=[O:6])[H:11])([H:8])[H:9],89.2652672255077
[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C:3]([C@@:4]([N-:5][O:6][H:13])([C:7]([H:14])([H:15])[H:16])[H:11])[H:12])([H:8])([H:9])[H:10],63.0618664750101
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](/[N:4]=[N:5]/[H:12])=[C:7]=[C:6]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],74.4949826761017
[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N:6]=[C:5]1[C:2]([H:10])([H:11])[O:3][C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],102.873898867091
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:5]1([O:6][O:4][H:13])[H:14])([H:7])([H:8])[H:9],94.42611796289671
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]2[C:4]([H:11])([H:12])[C@:5]12[O:6][C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],107.453154218736
[C:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[O:4]1)([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7],58.3042748424932
[C:5]([O:6][H:11])[H:12].[O:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],6.11632496143271
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O+:1]#[C:2][C:3]([C:4](=[C-:5][H:10])[N+:7]#[C-:6])([H:8])[H:9],73.69134290660259
[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4](=[C:5]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[O:6]([H:10])[H:14],56.7868816410765
[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[o:1]1[c:2]([H:6])[c:3]([H:7])[c:4]([H:8])[n:5]1,68.6195334920057
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1]1([H:8])[C:2]([C:6](=[O:5])[H:9])=[C:7]1[H:10].[N:3]#[N:4],80.8645480701272
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C-:3]([H:11])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C+:6]2[C@:7]13[H:17].[H:12][H:16]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17],47.41116743946378
